US08729263B2
To a 2 mL microwave vial was added 6-chloro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine Intermediate 1-2 (100 mg, 0.37 mmol), naphthalen-2-ylboronic acid (96 mg, 0.56 mmol), Na2CO3 (118 mg, 1.17 mmol), water (0.25 mL), DME (1 mL), and PdCl2(dppf).CH2Cl2 (30 mg, 0.037 mmol). The reaction vessel was sealed and heated in a microwave at 120° C. for 45 mins. The crude mixture was diluted with EtOAc, then the organic layer was washed with water, brine, dried over MgSO4, filtered and concentrated. The crude product was purified via silica chromatography to give 6-(naphthalen-2-yl)-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (86 mg). LCMS Rt=1.39 min (condition B); MS (M+1)=361.3. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.30 (s, 1H), 8.12 (dd, J=8.6, 1.8 Hz, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.76-7.84 (m, 2H), 7.67 (d, J=9.3 Hz, 1H), 7.37-7.48 (m, 2H), 6.69 (d, J=9.1 Hz, 1H), 4.82 (br. m, 1H), 4.31-4.51 (m, 2H), 2.07 (dd, J=12.9, 3.5 Hz, 2H), 1.35 (s, 6H), 1.22 (s, 6H).

reactant | 6-chloro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | ClC1=CC=C(N=N1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | naphthalen-2-ylboronic acid | 0.56 mmol, 96 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | Na2CO3 | 1.17 mmol, 118 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.037 mmol, 30 mg | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | water | 0.25 mL | O | H2O
product | 6-(naphthalen-2-yl)-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 86 mg | C1=C(C=CC2=CC=CC=C12)C1=CC=C(N=N1)NC1CC(NC(C1)(C)C)(C)C | C23H28N4
